US06610723B2
(5-Bromo-pyridin-3-yl)-methanol Hydrochloride (1:1)
5-Bromo nicotinic acid ethyl ester (25 g, 108 mmol) was dissolved in ethanol (500 ml) and treated with fresh sodium borohydride (25 g, 660 mmol) added portionwise over 30 min. at 20° C. Stirring was continued overnight under an argon atmosphere. Following this 1N HCl (50 ml) was added slowly (over 20 min) followed by 2N NaOH (25 ml) and H2O (75 ml) and this mixture was stirred for 2 h at ambient temperature. After evaporation of the alcohol the aqueous phase was extracted with dichloromethane (4×150 ml) and the combined extracts were washed with brine then dried with Na2SO4, filtered and evaporated. The resulting yellow oil was dissolved in a small volume of ethanol and treated with 0.93 M HCl/EtOH (62 ml, 1.2 eq.) at 4° C. over 1 h to afford, after removal of solvent and drying under high vacuum at 50° C. for 16 h, the title compound (10.9 g, 44%) as a light yellow solid. MS: m/e=186.9 (M-′).

reactant | 5-Bromo nicotinic acid ethyl ester | 108 mmol, 25 g | C(C)OC(C1=CN=CC(=C1)Br)=O | C8H8BrNO2
reactant | sodium borohydride | 660 mmol, 25 g | [BH4-].[Na+]
reactant | HCl | 1N, 50 ml | Cl | ClH
reactant | NaOH | 2N, 25 ml | [OH-].[Na+]
reactant | HCl EtOH | 0.93 M, 62 ml, 1.2 eq. | Cl.CCO
solvent | ethanol | 500 ml | C(C)O | C2H6O
solvent | H2O | 75 ml | O | H2O
product | (5-Bromo-pyridin-3-yl)-methanol Hydrochloride | Cl.BrC=1C=C(C=NC1)CO | InChI=1S/C6H6BrNO.ClH/c7-6-1-5(4-9)2-8-3-6;/h1-3,9H,4H2;1H
